US07728039B2
Preparation of E-3-[3′-chloro-4′-hydroxybiphenyl-4-yl]-N-hydroxy-acrylamide (ST 3192)
205 mg (0.75 mmol) of E-3-chloro-4-hydroxyphenylcinnamic acid were dissolved under nitrogen in 7.5 ml of DMF, then 285 mg (0.75 mmol) of HATU and 97 μL (0.56 mmol) of DIPEA were added and the solution thus obtained was kept under stirring at room temperature for 2 min. After addition of hydroxylamine hydrochloride (261 mg, 3.75 mmol), the mixture was stirred at room temperature for 2 days. DMF was removed under reduced pressure and the residue was washed with water to obtain, after filtration, 140 mg of a crude product. Purification by flash chromatography on reverse phase ((LiChroprep RP-18, MERCK) using as eluent water/methanol 1:1 and crystallization from diethyl ether afforded 21 mg of the title compound as a white solid. M.p. 172-175° C. Rf=0.16 (RP18 MERCK, H2O/MeOH 1:1).

reactant | E-3-chloro-4-hydroxyphenylcinnamic acid | 0.75 mmol, 205 mg | ClC=1C=C(C=CC1O)/C(/C(=O)O)=C\C1=CC=CC=C1 | C15H11ClO3
reactant | HATU | 0.75 mmol, 285 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.56 mmol, 97 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | hydroxylamine hydrochloride | 3.75 mmol, 261 mg | Cl.NO
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | E-3-[3′-chloro-4′-hydroxybiphenyl-4-yl]-N-hydroxy-acrylamide | 21 mg | ClC=1C=C(C=CC1O)C1=CC=C(C=C1)/C=C/C(=O)NO | C15H12ClNO3
